US08669266B2
(iv) 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester
To a solution of 1.30 g 4-((R)-1-Carboxy-ethoxy)-7-methyl-quinoline-2-carboxylic acid in 10 ml DCM, 1.24 g pentafluorophenol and 1.29 g EDC were added. The mixture was stirred under exclusion of moisture until LCMS indicated complete conversion to the corresponding pentafluorophenolester. (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide hydrochloride (1.10 g) was mixed with 1.1 ml N-ethylmorpholine and 5 ml DCM and this mixture added dropwise to the solution of the pentafluorophenolester. After 12 h the reaction mixture was diluted with water and extracted with DCM. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica eluting with ethyl acetate/heptane gradient. Yield: 1.40 g.

reactant | 4-((R)-1-Carboxy-ethoxy)-7-methyl-quinoline-2-carboxylic acid | 1.30 g | C(=O)(O)[C@@H](C)OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C14H13NO5
reactant | pentafluorophenol | 1.24 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide hydrochloride | 1.10 g | Cl.C1(CCC1)NC(=O)[C@H]1NCCC1
reactant | N-ethylmorpholine | 1.1 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | EDC | 1.29 g
product | 4-[(R)-2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@@H](C(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)C | C24H29N3O5
